US05180742
6N Hydrochloric acid (20 ml) was added to a tetrahydrofuran solution (20 ml) containing 1-acetoxy-6-(3-methyl-1,4-naphthoquinon -2-yl)-6-phenylhexane (2.8 g, 7.2 mmole), followed by stirring for 5 hours with heating at 70° C. After cooling, ethyl acetate was added to the reaction solution, and the organic layer was separated out, washed with water, dried and evaporated under reduced pressure. The residue was chromatographed on a silica gel column, and elution was performed with isopropyl ether-ethyl acetate (1:1), followed by recrystallization of the object compound from isopropyl ether to give 1-hydroxy-6-(3-methyl-1,4-naphthoquinon -2-yl)-6-phenylhexane (2.1 g). Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 1. By following the procedure of this Example, the Compound Nos. 75, 79 and 81 were prepared.

reactant | Hydrochloric acid | 6N, 20 ml | Cl | ClH
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 1-acetoxy-6-(3-methyl-1,4-naphthoquinon -2-yl)-6-phenylhexane | 7.2 mmole, 2.8 g | C(C)(=O)OCCCCCC(C1=CC=CC=C1)C=1C(C2=CC=CC=C2C(C1C)=O)=O | C25H26O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-hydroxy-6-(3-methyl-1,4-naphthoquinon -2-yl)-6-phenylhexane | 2.1 g | OCCCCCC(C1=CC=CC=C1)C=1C(C2=CC=CC=C2C(C1C)=O)=O | C23H24O3
